US05767131
5-(5-Methoxypentanoyl)-2, 2-dimethyl-1, 3-dioxane-4, 6-dione was heated with 3-hydroxypropionitrile (2.79 g, 39.2 mmol) at 80° C. until no more CO2 was released. After cooling to room temperature, the mixture was diluted with 50 ml of 2-propanol and 4-nitrobenzaldehyde (5.40 g, 35.6 mmol), piperidine (150 mg, 1.78 mmol) and acetic acid (110 mg, 1.78 mmol) was added, the mixture was stirred at room temperature for 48 hrs. After evaporation of solvent, the product was purified by chromatography (SiO2, MeOH:CHCl2 =5:95). 7-Methoxy-2-[(4-nitrophenyl)methylene]-3-oxoheptanoic acid 2-cyanoethyl ester was obtained as a pale-yellow oil (7.75 g, 60% yield).

reactant | 5-(5-Methoxypentanoyl)-2, 2-dimethyl-1, 3-dioxane-4, 6-dione | COCCCCC(=O)C1C(OC(OC1=O)(C)C)=O | C12H18O6
reactant | 3-hydroxypropionitrile | 39.2 mmol, 2.79 g | OCCC#N | C3H5NO
reactant | CO2 | C(=O)=O | CO2
reactant | 4-nitrobenzaldehyde | 35.6 mmol, 5.40 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | piperidine | 1.78 mmol, 150 mg | N1CCCCC1 | C5H11N
reactant | acetic acid | 1.78 mmol, 110 mg | C(C)(=O)O | C2H4O2
solvent | 2-propanol | 50 ml | CC(C)O | C3H8O
product | 7-Methoxy-2-[(4-nitrophenyl)methylene]-3-oxoheptanoic acid 2-cyanoethyl ester | C(#N)CCOC(C(C(CCCCOC)=O)=CC1=CC=C(C=C1)[N+](=O)[O-])=O | C18H20N2O6
